US08685977B2
4-methylphenyl 5-chloro-4-[3-chloro-4-(trifluoromethyl)phenoxy]-2-fluorobenzoate
To a solution of 3-chloro-4-(trifluoromethyl)phenol (Preparation 16, 100 mg, 0.470 mmol) in DMSO (1 mL) was added potassium carbonate (0.84 mg, 0.611 mmol) and the mixture stirred for 5 minutes. 4-methylphenyl-5-chloro-2,4-difluorobenzoate (Preparation 10, 0.133 mg, 0.470 mmol) was then added and the reaction stirred under nitrogen for 3 hours. The reaction was quenched by the addition of water (2 mL) and ethyl acetate (3 ml). The organic layer was separated, dried over magnesium sulfate and concentrated in vacuo to afford a white solid that was purified using silica gel column chromatography eluting with ethyl acetate:heptane 3:97 to furnish the title compound (100 mg, 47%).

reactant | 3-chloro-4-(trifluoromethyl)phenol | 0.470 mmol, 100 mg | ClC=1C=C(C=CC1C(F)(F)F)O | C7H4ClF3O
reactant | potassium carbonate | 0.611 mmol, 0.84 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methylphenyl-5-chloro-2,4-difluorobenzoate | 0.470 mmol, 0.133 mg | CC1=CC=C(C=C1)C=1C(=C(C(=O)[O-])C=C(C1F)Cl)F
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 4-methylphenyl 5-chloro-4-[3-chloro-4-(trifluoromethyl)phenoxy]-2-fluorobenzoate | 100 mg, 47% | ClC=1C(=CC(=C(C(=O)OC2=CC=C(C=C2)C)C1)F)OC1=CC(=C(C=C1)C(F)(F)F)Cl | C21H12Cl2F4O3
